US04277394
(II) Production of Z-(D)-Ala-Gly-Phe-NHNH2
In 50 ml of MeOH is dissolved 3.3 g of Z-(D)-Ala-Gly-Phe-OEt and after 1 mlof hydrazine hydrate is added, the solution is allowed to stand at room temperature for 2 days. It is then treated with diethyl ether, collected by filtration and recrystallized from ethanol. 3.0 g (94%); m.p. 196°-197° C; Rf1 =0.34; [α]D27 +2.4°(c=0.37, DMF).

reactant | Z-(D)-Ala-Gly-Phe-OEt | 3.3 g | N([C@H](C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC)C(=O)OCC1=CC=CC=C1 | C24H29N3O6
reactant | hydrazine hydrate | O.NN
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | MeOH | 50 ml | CO | CH4O
product | Z-(D)-Ala-Gly-Phe-NHNH2 | N([C@H](C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C22H27N5O5
